US04888048
880 ml of absolute dimethylsulphoxide are added dropwise to a mixture of 38.2 g (1.27 mols) of sodium hydride (80% strength) and 271.5 g (1.23 mols) tri-methyl-oxosulphonium iodide at 10° C. under a nitrogen atmosphere, with stirring. The mixture is subsequently stirred for a further hour at room temperature and is then cooled to 10° C., and a solution of 219 g (1.1 mols) of 3,3-dimethyl-1-(tetrahydro-2H-pyran-2-yloxy)-butan-2-one in 250 ml of absolute dimethylsulphoxide is added dropwise at this temperature. The reaction mixture is stirred at room temperature for 48 hours and then poured into water. The mixture is extracted with ethyl acetate and the combined organic phases are washed with water, dried over sodium sulphate and concentrated by stripping off the diluent under reduced pressure. 219.4 g (94% of theory) of 2-tert.-butyl-2-(tetrahydro-2H-pyran-2-yloxymethyl) oxirane are obtained in this manner.

reactant | sodium hydride | 1.27 mols, 38.2 g | [H-].[Na+]
reactant | tri-methyl-oxosulphonium iodide | 1.23 mols, 271.5 g | [I-].C[S+](=O)(C)C
reactant | 3,3-dimethyl-1-(tetrahydro-2H-pyran-2-yloxy)-butan-2-one | 1.1 mols, 219 g | CC(C(COC1OCCCC1)=O)(C)C | C11H20O3
reactant | water | O | H2O
solvent | dimethylsulphoxide | 250 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 880 ml | CS(=O)C | C2H6OS
product | 2-tert.-butyl-2-(tetrahydro-2H-pyran-2-yloxymethyl) oxirane | 219.4 g, 94% | C(C)(C)(C)C1(OC1)COC1OCCCC1 | C12H22O3
